US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester was reduced using LAH to afford the title compound: mixture of diasteromers C13 NMR (100 MHz, CDCl3) 14.1, 14.2, 14.4, 19.4, 19.5, 21.2, 22.7, 24.7, 24.8, 24.9, 28.1, 28.3, 28.8, 28.9, 29.6, 29.7, 36.4, 52.1; 52.7, 59.3, 60.0, 60.6, 60.7, 70.5, 100.8, 101.0, 101.3, 104.6, 110.5, 110.6, 110.7, 110.8, 117.9, 118.1, 118.4, 118.6, 131.2, 131.3, 137.3, 137.4, 139.5, 139.6, 139.7, 139.8, 139.9, 139.9, 159.7, 159.8, 159.9, 162.1, 162.2, 162.3, 172.4, 172.6; MS m/z 421.4 (M+1).

reactant | 2-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)=O | C23H30F2N4O3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | OCC(C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C22H30F2N4O2
